US07812028B2
Preparation of 5-(4-Chloro-3-methyl-phenyl)-N—((R)-1-hydroxymethyl-3-methyl-butyl)-6-pyrrolidin-1-yl-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, pyrrolidine (commercially available), 3-chloro-4-methylphenyl-boronic acid (commercially available) and (R)-(−)-leucinol (commercially available) as starting materials. MS (ISP): 416.4 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 3-chloro-4-methylphenyl-boronic acid | ClC=1C=C(C=CC1C)B(O)O | C7H8BClO2
reactant | (R)-(−)-leucinol | N[C@H](CC(C)C)CO | C6H15NO
product | 5-(4-Chloro-3-methyl-phenyl)-N—((R)-1-hydroxymethyl-3-methyl-butyl)-6-pyrrolidin-1-yl-nicotinamide | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)N[C@H](CC(C)C)CO)C1)N1CCCC1)C | C23H30ClN3O2
